US04804661
A solution of 4-acetaminobenzoic acid anhydride (prepared from 6.97 g of 4-acetaminobenzoic acid in 70 ml of DMF, 3.93 g of triethylamine and 4.22 g of chloroformic acid ethyl ester in 30 ml of chloroform at 0°-5°) is added dropwise, over a period of 10 minutes, to a solution, stirred at room temperature, of 8.73 g of 1-[2-(4-chlorophenyl)-ethyl]piperazine in 50 ml of dimethylformamide and the whole is stirred overnight at room temperature. The reaction solution is concentrated to dryness by evaporation and the residue is dissolved in methylene chloride, rendered alkaline with sodium carbonate solution and washed with water until neutral, dried over sodium sulphate and concentrated by evaporation. The crude product is recrystallised from ethanol and ether. 1-[2-(4-chlorophenyl)-ethyl]-4-(4-acetaminobenzoyl)piperazine having a melting point of 147°-149° is thus obtained.

reactant | 4-acetaminobenzoic acid anhydride | 70 ml, 6.97 g | N(C(=O)C)C1=CC=C(C(=O)OC(C2=CC=C(C=C2)NC(=O)C)=O)C=C1 | C18H16N2O5
reactant | 1-[2-(4-chlorophenyl)-ethyl]piperazine | 8.73 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-chlorophenyl)-ethyl]-4-(4-acetaminobenzoyl)piperazine | ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=CC=C(C=C1)NC(=O)C)=O | C21H24ClN3O2
